US06359134B1
1-[4-Methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine dihydrochloride
To 1-(tert-butoxycarbonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine (6.40 g) were added methanol (30 ml) and 4N hydrochloric acid in ethyl acetate (30 ml), and the mixture was stirred at room temperature for 30 minutes. The reaction solution was concentrated, and the residue was washed with ether and dried under reduced pressure to give powders of the title compound (5.8 g).

reactant | 1-(tert-butoxycarbonyl)-4-[4-methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine | 6.40 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=C(N=C(S1)C1=CC=NC=C1)C | C19H24N4O3S
reactant | methanol | 30 ml | CO | CH4O
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-Methyl-2-(4-pyridyl)-5-thiazolecarbonyl]piperazine dihydrochloride | 5.8 g | Cl.Cl.CC=1N=C(SC1C(=O)N1CCNCC1)C1=CC=NC=C1 | InChI=1S/C14H16N4OS.2ClH/c1-10-12(14(19)18-8-6-16-7-9-18)20-13(17-10)11-2-4-15-5-3-11;;/h2-5,16H,6-9H2,1H3;2*1H
